Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ year old man with HIV (CD4 ___,000 in ___ on ___ since ___ who presents with 
several weeks of escalating intermittent RUQ pain. He has been 
having intermittent episodes of stabbing/burning RUQ pain 
associated with nausea and nonbilious emesis intermittently for 
a couple of months now. Initially, these episodes were 
infrequent and relatively mild; they would resolve spontaneously 
in less than an hour, especially with prn ranitidine. He feels 
that they have been particularly brought on by "heavy" fatty 
meals, and the pain/nausea/vomitting have been waking him 
suddenly from sleep. The frequency and severity of these 
episodes has been gradually escalating over this time, but 
particularly over the past week. They also seem to be less 
associated with any sort of food. On the day of admission, he 
had severe RUQ pain which did not remit, causing him to get in a 
taxi to come to the ED; he estimates this episode lasted at 
least four hours prior to resolving with the morphine he was 
given in the ED.  
.  
Of note, he does endorse an unintentional 15 lbs weight loss 
over the past month; he feels that he looks more gaunt in the 
mirror and that his clothes are fitting more loosely. He denies 
any jaundice or scleral icterus.  
.  
Also of note, he has been having frequent myalgias and 
arthralgias upon waking in the morning, especially in his 
legs/knees; this usually responds to over the counter 
analgesics. He also reports generalized fatigue, malaise, and 
weakness for several months now.  
.  
ED Course:  
Upon arrival to the ___ ED, he was afebrile, BP 109/76, HR 
100, RR 18, Sat 99% on room air. He was given 4 mg of IV 
ondansetron and 4 mg of IV morphine which eventually relieved 
his pain; he was also given 3000 cc of normal saline. A RUQ 
ultrasound was normal but an abdominal CT scan showed possible 
gallbladder distension; the ERCP team was consulted who 
recommended MRCP for evaluation.  
.  
ROS:  
He reports subjective warmth and clamminess with these episodes 
of abdominal pain. He gets occasional mild frontal headaches. 
Denies any chills or rigors. Weight loss as above. He denies 
chest pain, dyspnea, ankle edema, diarrhea. He does have 
occasional constipation. He also reports new mild oral thrush 
and new scaly pink lesions on the soles of his feet for the past 
month.  

 
Past Medical History:
-HIV, CD4 ___,000 in ___ 
contracted from MSM contact with known HIV-positive partner; 
resumed ___ in ___ after having been off it for some time; 
initially diagnosed in ___ CD4 never below 200 (per patient) 
 
- syphilitic optic neuritis in ___ treated with high-dose 
steroids and two weeks of IV penicillin (serum RPR 1:2048 at 
time of diagnosis)  
- peptic ulcer disease; treated for H. pylori in ___  
- perianal condyloma resected in ___  
- recurrent genital HSV on suppressive acyclovir  
- history of MRSA skin/soft tissue infections for which he has a 
TMP/SMX prescription at home (only takes if/when he has a new 
infection)  

 
Social History:
___
Family History:
Multiple family members with fibromyalgia
 
Physical Exam:
T 97.3 BP 120/70 HR 83 RR 16 Sat 99% on room air  
General: well-appearing middle aged man in no distress  
HEENT: no scleral icterus; several white plaques on tongue  
Neck: no cervical or supraclavicular lymphadenopathy; no 
meningismus  
Chest: clear to auscultation throughout with no wheezes, rales, 
or ronchi  
CV: regular rate/rhythm, normal s1 and s2, no murmurs/rubs  
Abdomen: soft, tender to deep palpation and percussion in RUQ 
only, with (+) ___ sign; no guarding; no palpable 
masses/HSM; normal bowel sounds  
Extremities: no edema, 2+ ___ pulses, no clubbing  
Skin: multiple 0.5-2 cm pink macules on soles of both feet with 
surrounding scale; no palmar lesions or other rashes; no 
jaundice  
Neuro: alert, oriented x3, CN ___ intact; ___ strength in 
bilateral deltoids, biceps, triceps, hip flexors/extensors, knee 
flexors/extensors; 1+ biceps reflexes bilaterally  

 
Pertinent Results:
___ 03:10PM BLOOD WBC-6.3 RBC-4.33* Hgb-12.2* Hct-35.3* 
MCV-82 MCH-28.3 MCHC-34.6 RDW-14.1 Plt ___
___ 03:10PM BLOOD Neuts-76.5* Lymphs-13.5* Monos-5.6 
Eos-4.1* Baso-0.3
___ 05:20AM BLOOD  WBC-5.3 Lymph-19 Abs ___ CD3%-69 
Abs CD3-695 CD4%-24 Abs CD4-246* CD8%-43 Abs CD8-438 
CD4/CD8-0.6*
___ 03:10PM BLOOD Glucose-88 UreaN-14 Creat-0.9 Na-138 
K-4.0 Cl-103 HCO3-27 AnGap-12
___ 03:10PM BLOOD ALT-13 AST-22 LD(LDH)-227 AlkPhos-104 
TotBili-4.5* DirBili-0.2 IndBili-4.3
___ 03:10PM BLOOD Lipase-86*
___ 03:10PM BLOOD Albumin-3.9
___ 05:20AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.9
___ 03:10PM BLOOD Hapto-192
___ 05:20AM BLOOD ___
___ 09:45AM BLOOD WBC-5.4 RBC-3.82* Hgb-10.8* Hct-31.0* 
MCV-81* MCH-28.3 MCHC-34.9 RDW-13.8 Plt ___
___ 09:45AM BLOOD Glucose-113* UreaN-12 Creat-0.7 Na-138 
K-4.0 Cl-105 HCO3-29 AnGap-8
___ 09:45AM BLOOD ALT-11 AST-16 AlkPhos-95 TotBili-3.8* 
DirBili-0.2 IndBili-3.6
___ 05:20AM BLOOD Lipase-67*
.
ECG ___
Sinus rhythm. Normal tracing. Compared to the previous tracing 
the rate 
is slower. 
    Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
89 150 92 362/412 67 60 58 
.
ABdominal U/S ___
ABDOMINAL ULTRASOUND: The liver is normal in echotexture without 
focal 
lesions or masses. The gallbladder is normal without stones or 
wall thickening. The common duct is normal, measuring 6 mm. The 
pancreas is unremarkable, with the pancreatic duct measuring 
less than 2 mm. The aorta is normal in caliber throughout. The 
IVC is unremarkable. The right kidney measures 11.3 cm, and the 
left kidney measures 12 cm. The portal vein demonstrates normal 
hepatopetal flow. There is no ascites. 
IMPRESSION: Normal abdominal ultrasound, without cholelithiasis 
or 
cholecystitis. 
.
CT ABDOMEN WITH IV CONTRAST ___: The lung bases are clear 
without consolidation or effusion. The heart size is normal 
without pericardial effusion. The pancreas has a normal 
appearance, and there is no ___ fluid collection. 
The lack of mesenteric fat limits evaluation for ___ 
inflammatory reaction. The gallbladder is mildly distended with 
fluid, but the wall is thin, no stones are present and there is 
no pericholecystic fluid. The liver, spleen, adrenal glands, 
stomach and duodenum are unremarkable. The kidneys enhance and 
excrete contrast symmetrically without hydronephrosis or masses. 
There is no free air in the abdomen. There is a tiny amount of 
fluid around the inferior margin of the liver.  
CT PELVIS WITH IV CONTRAST ___: Multiple loops of large and 
small bowel are unremarkable. There is no bowel wall thickening 
or evidence of obstruction. The appendix is normal. There is no 
free fluid in the pelvis. The urinary bladder, prostate gland 
and rectum are unremarkable. 
There are no mesenteric, retroperitoneal or pelvic lymph nodes 
that meet T criteria for pathologic enlargement. OSSEOUS 
STRUCTURES: There is no worrisome lytic or sclerotic bony 
lesion. There is no fracture. Soft tissues are unremarkable. 
IMPRESSION: 
1. No focal abnormalities of the pancreas. However, a tiny 
amount of free fluid tracks around the inferior margin of the 
liver. This could be seen in mild or early pancreatitis. 
2. No other acute abnormalities. 
.
MRCP ___
FINDINGS: The liver is normal in appearance. Specifically, there 
is no 
intra- and extra-hepatic biliary ductal dilatation. No abnormal 
mass or
obstructing lesion is seen. The distal common bile duct and 
pancreatic duct are also normal in appearance. A tiny right 
renal cyst is noted. The 
abdominal viscera are otherwise normal in appearance. There is 
no lymphadenopathy. Incidental note is made of a small 
paraaortic venous or 
lymphatic malformation. Incidental note is made of a small 
vertebral body hemangioma. The soft tissues are otherwise within 
normal limits. 
Multiplanar 2D and 3D reformations provided multiple 
perspectives for the 
dynamic series. 
IMPRESSION: 
1. Normal appearance of the liver. Specifically, no evidence of 
biliary 
ductal dilatation, as questioned. 
2. Paraaortic venous or lymphatic malformation. 

 
  

 
Brief Hospital Course:
___ year old man with HIV on ___ presenting with several weeks 
of escalating intermittent RUQ pain, weight loss, and 
hyperbilirubinemia.  
.  
## Abdominal pain and indirect bilirubinemia; U/S not showing 
any gall bladder stones. CT showing mildly distended gall 
bladder, raising concern for choledocholithiasis. However, 
indirect bilirubinemia is not characteristic of 
choledocholithiasis. Haptoglobin WNL, with no s/s of hemolysis. 
___ side effect of ___ therapy. Weight loss and general 
malaise was concerning for pancreatic/biliary neoplasm; or it 
may be as benign as ___ syndrome (pt has h/o elevated 
T.bili in ___, as high as 3.0, also as low as 0.6.). 
- MRCP was done -> no evidence of ductal dilatation, masses. 
Incidental finding of lymphatic malformation of little clinical 
significance.
- Total bili trended down throughout hospital course. Pain 
abated.  
.  
## Oral candidiasis, mild  
- nystatin swish 5 cc four times daily  
.  
## HIV  
- rechecked CD4 and viral load since they haven't been checked 
since ___ prior to resuming ___  
- continued ___  
- Pt to follow up with outpatient HIV specialist.
.  
## Pink macules on soles of feet; appearance most consistent 
with fungal infection  
- Re-checked RPR to assess for increase in titer (was 1:64 when 
checked in ___ - 1:128. 
- Rx given for Lotrimin and ___ pt to follow up as 
outpatient.
.  

 
Medications on Admission:
- acyclovir 400 mg bid  
- ranitidine 150 mg prn  
- ritonavir 100 mg daily  
- emtricitabine/tenofovir 200 mg-300 mg one tablet daily  
- atazanavir 300 mg daily  
- lorazepam 1 mg qhs prn  
- multivitamin  
- TMP/SMX (has a prescription for if/when he develops recurrent 
skin infections; hasn't needed recently)  

 
Discharge Medications:
1. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
2. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): take this while taking percocet to prevent 
constipation.
Disp:*60 Capsule(s)* Refills:*2*
4. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
5. Atazanavir 150 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
6. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) as needed for abdominal pain.  
7. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day).
Disp:*600 ML(s)* Refills:*2*
8. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
9. Percocet ___ mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
10. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Bactrim DS 160-800 mg Tablet Sig: One (1) Tablet PO twice a 
day as needed for recurrent skin infection: (Pt has Rx at home). 
 
12. Drysol Dab-O-Matic 20 % Solution Sig: One (1) app Topical at 
bedtime as needed for sweating: apply to feet .
Disp:*1 bottle* Refills:*2*
13. Lotrimin 1 % Cream Sig: One (1) application Topical at 
bedtime.
Disp:*1 large tube* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
RUQ abdominal pain 
Indirect bilirubinemia of unknown etiology, possibly ___ 
syndrome 
Secondary: 
HIV 

 
Discharge Condition:
Pain controlled, stable. Afebrile.

 
Discharge Instructions:
You were admitted to the hospital for evaluation of right upper 
quadrant abdominal pain. CT scan of your abdomen showed possibly 
distended gall bladder, and lab tests showed high total 
bilirubin level which can indicate a blockage in the biliary 
system. An MRCP was done, which was normal. The liver and 
biliary system were normal, with no obstruction, stones or 
lesions. There was an incidental finding of a small lymphatic 
malformation which is of no clinical significance. Although 
these preliminary findings are reassuring, please follow up with 
your primary care physician for the final read. 
.
If you develop worsening pain, fever, chills, nausea, vomiting 
or any other concerning symptoms, please call your primary care 
doctor or return to the emergency room. 
 
Followup Instructions:
___